US04034107
A stirred mixture of N-benzyloxycarbonylglycine [30 g.; prepared as described in Ber., 65, 1192, (1932)] and dry diethyl ether (190 ml.) was treated at 0° C. with phosphorus pentachloride (32 g.) during 5 minutes. The mixture was stirred at between 0° and 5° C. for a further 20 minutes and the solution was then filtered and the filtrate was evaporated. The residue was triturated with petrol (b.p. 40°-60° C.) and the petrol layer was decanted off, and this procedure was repeated several times, keeping the temperature below 20° C. throughout. A solid formed, which was filtered off to give N-benzyloxycarbonylglycyl chloride (25 g.), which was used immediately in the next stage. N-Benzyloxycarbonylglycyl chloride (13.0 g.) was added in one portion to a stirred solution of 4-amino-3-(3-methoxycarbonyl-2-thioureido)diphenyl thioether (10.0 g.; prepared as hereinbefore described in Example 2) in dry dimethylformamide. The temperature of the mixture rose to 35° C., and the stirring was continued for 20 minutes. The solution was then poured into water. The resulting oil solidified on scratching. The solid was filtered off and recrystallised from a mixture of dimethylformamide and methanol to give 4-(2-benzyloxycarbonylaminoacetamido)-3-(3-methoxycarbonyl-2-thioureido)diphenyl thioether (13.0 g.), m.p. 184°-186° C.

reactant | N-benzyloxycarbonylglycine | 30 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | phosphorus pentachloride | 32 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | diethyl ether | 190 ml | C(C)OCC | C4H10O
product | N-benzyloxycarbonylglycyl chloride | 25 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)Cl | C10H10ClNO3
